US09084794B2
c) methyl 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoate
A solution of methyl 3-(4-bromophenyl)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)propanoate (0.399 mmol) in 1,4-dioxane (2 mL) was treated with 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline (0.439 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.020 mmol) and 2M aq potassium carbonate (1.196 mmol). The reaction vessel was purged with nitrogen and the reaction irradiated in a Biotage Initiator microwave at 120° C. for 15 minutes. The black reaction mixture was then diluted with water (50 mL) and extracted with dichloromethane three times. The combined organic layer was treated with Silicycle Si-thiol (30 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by reverse phase HPLC (15-60% acetonitrile/water with 0.1% NH4OH) afforded the title compound as a yellow oil, which was subsequently lyophilized from 1 mL of water and then triturated with hexanes and dried under a nitrogen stream to afford the title compound as a white solid (61%). MS(ES)+ m/e 500.3 [M+H]+.

reactant | methyl 3-(4-bromophenyl)-3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)propanoate | 0.399 mmol | BrC1=CC=C(C=C1)C(CC(=O)OC)N1CCC2(CN(C(CO2)=O)C2CC2)CC1 | C21H27BrN2O4
reactant | 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)quinoline | 0.439 mmol | CC1(OB(OC1(C)C)C1=CC=C2C=CC=NC2=C1)C | C15H18BNO2
reactant | potassium carbonate | 1.196 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
solvent | water | 50 mL | O | H2O
catalyst | PdCl2(dppf) CH2Cl2 | 0.020 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | methyl 3-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-3-(4-(quinolin-7-yl)phenyl)propanoate | C1(CC1)N1C(COC2(C1)CCN(CC2)C(CC(=O)OC)C2=CC=C(C=C2)C2=CC=C1C=CC=NC1=C2)=O | C30H33N3O4
